US07557213B2
Preparation of 3-(3,4-Dimethyl-benzoyl)-1-(5-trifluoromethyl-furan-2-ylmethyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 55 mg (0.20 mmol) of 3-(3,4-dimethyl-benzoyl)-1H-quinolin-4-one, 10 mg of 60% sodium hydride, 55 mg (0.24 mmol) 2-bromomethyl-5-trifluoromethyl-furan and 0.7 mL of N,N-dimethylformamide. Yield: 70 mg of a white solid: LC-MSD, m/z for C24H18F3NO3 [M+H]+=426.4; HPLC retention time: 2.7 min.

reactant | 3-(3,4-dimethyl-benzoyl)-1H-quinolin-4-one | 0.20 mmol, 55 mg | CC=1C=C(C(=O)C2=CNC3=CC=CC=C3C2=O)C=CC1C | C18H15NO2
reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | 2-bromomethyl-5-trifluoromethyl-furan | 0.24 mmol, 55 mg | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
solvent | N,N-dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
product | 3-(3,4-Dimethyl-benzoyl)-1-(5-trifluoromethyl-furan-2-ylmethyl)-1H-quinolin-4-one | CC=1C=C(C(=O)C2=CN(C3=CC=CC=C3C2=O)CC=2OC(=CC2)C(F)(F)F)C=CC1C | C24H18F3NO3
